data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4177,4780,[CH3:10][NH:11][C:12](=[O:13])[N-:14][O+:15]=[CH:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:14]([C:12]([NH:11][CH3:10])=[O:13])[O:15][CH:16]1[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,14.96547295414292,-27.733685707651286
4874,5557,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[O+:15][N-:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C:23](=[O:24])[O:25][CH3:26].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:23](=[O:24])[O:25][CH3:26])[O:15][N:16]1[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,21.16850970910993,-38.240646424417726
3368,3827,[CH3:10][N:11]=[NH+:12][N-:13][C:14](=[O:15])[NH:16][CH3:17].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:13]([C:14](=[O:15])[NH:16][CH3:17])[NH:12][N:11]1[CH3:10],water,298.15,36.4864781816835,0.8121699603508513
964,1048,[CH3:16][N-:17][O+:18]=[CH:19][C:20](=[O:21])[O:22][CH3:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]#[C:8][C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]2=[C:8]([C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[N:17]([CH3:16])[O:18][CH:19]2[C:20](=[O:21])[O:22][CH3:23],water,298.15,8.094733259456067,-70.31371855047595
4071,4662,[CH3:10][O:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[N+:17]([CH3:18])[C-:19]([CH3:20])[CH3:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:19]([CH3:20])([CH3:21])[N:17]([CH3:18])[C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,28.462299274970217,-1.7879564419412333
2670,2964,[CH3:1][C:2](=[O:3])[C:4]1([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:11]#[C:12][C:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)([c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[CH2:26][CH2:27][CH2:28][CH2:29]1.[CH3:30][C-:31]([N+:32]#[N:33])[c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1>>[CH3:1][C:2](=[O:3])[C:4]1([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:11]2=[C:12]([C:13]([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)([c:20]3[cH:21][cH:22][cH:23][cH:24][cH:25]3)[CH2:26][CH2:27][CH2:28][CH2:29]1)[N:33]=[N:32][C:31]2([CH3:30])[c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1,water,298.15,24.090436941071644,-25.288079580488265
4021,4606,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[c:14]1[o:15][c:16](=[O:17])[c-:18]([CH3:19])[n+:20]1[CH3:21]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:18]1([CH3:19])[C:16](=[O:17])[O:15][C:14]2([C:12]([CH3:11])=[O:13])[N:20]1[CH3:21],water,298.15,31.318069713980883,12.892611557726308
325,354,[CH3:10][C:11](=[O:12])[C:13](=[NH+:14][CH-:15][C:16]#[N:17])[C:18]([CH3:19])=[O:20].[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][O:2][C:3]12[CH:4]([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[CH:15]([C:16]#[N:17])[NH:14][C:13]2([C:11]([CH3:10])=[O:12])[C:18]([CH3:19])=[O:20],water,298.15,14.385230573379369,-26.174740696288428
4428,5060,[CH3:9][O:10][C:11](=[O:12])[c:13]1[o:14][c:15](=[O:16])[c-:17](-[c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[o+:24]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[C:17]2([c:18]3[cH:19][cH:20][cH:21][cH:22][cH:23]3)[C:15](=[O:16])[O:14][C:13]1([C:11]([O:10][CH3:9])=[O:12])[O:24]2,water,298.15,12.755780993163048,-27.00379446408333
3609,4120,[CH3:9][C:10]#[N+:11][C-:12]([C:13]([CH3:14])=[O:15])[C:16](=[O:17])[NH:18][CH3:19].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:12]([C:13]([CH3:14])=[O:15])([C:16](=[O:17])[NH:18][CH3:19])[N:11]=[C:10]1[CH3:9],water,298.15,18.37584395373774,-25.609629078007146
1928,2136,[CH3:19][C:20](=[O:21])[CH:22]=[NH+:23][C-:24]([C:25]([CH3:26])=[O:27])[C:28]([CH3:29])=[O:30].[CH3:1][O:2][C:3]([O:4][CH3:5])=[C:6]([c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[CH:22]([C:20]([CH3:19])=[O:21])[NH:23][C:24]1([C:25]([CH3:26])=[O:27])[C:28]([CH3:29])=[O:30],water,298.15,32.059595477607424,11.09871579614523
3461,3941,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][c:12]1[nH+:13][c-:14]([CH3:15])[c:16](=[O:17])[o:18]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:12]1([CH3:11])[NH:13][C:14]2([CH3:15])[C:16](=[O:17])[O:18]1,water,298.15,26.45247863337863,6.407869197185187
